US03932456
Preparation of bis(3-piperidinopropyl) 9-ethylcarbazole-3,6-dicarboxylate dihydrochloride
By the procedure of Example 2, one equivalent of 9-ethylcarbazole-3,6-dicarboxylic acid is allowed to react with two equivalents of 3-piperidinopropyl chloride in the presence of a catalytic amount of benzyltrimethylammonium chloride to give the product.

reactant | 9-ethylcarbazole-3,6-dicarboxylic acid | one equivalent | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(=O)O)C(=O)O | C16H13NO4
reactant | 3-piperidinopropyl chloride | two equivalents | N1(CCCCC1)CCCCl | C8H16ClN
catalyst | benzyltrimethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | bis(3-piperidinopropyl) 9-ethylcarbazole-3,6-dicarboxylate dihydrochloride | Cl.Cl.C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(=O)OCCCN1CCCCC1)C(=O)OCCCN1CCCCC1 | InChI=1S/C32H43N3O4.2ClH/c1-2-35-29-13-11-25(31(36)38-21-9-19-33-15-5-3-6-16-33)23-27(29)28-24-26(12-14-30(28)35)32(37)39-22-10-20-34-17-7-4-8-18-34;;/h11-14,23-24H,2-10,15-22H2,1H3;2*1H
